* C:\Users\shaun\OneDrive\Documents\LTspiceXVII\FULL_ADDER USING CMOS\RIPPLE_CARRY_ADDER_50n.asc
M1 SUM_0 N050 0 N065 N_50n l=50n w=2000n
M2 Cout_0 N049 0 N064 N_50n l=50n w=1000n
M3 N001 N050 SUM_0 N042 P_50n l=50n w=5000n
M4 N035 N015 N050 N001 P_50n l=50n w=1000n
M5 N010 N016 N035 N001 P_50n l=50n w=1000n
M6 N001 0 N010 N001 P_50n l=50n w=1000n
M7 N001 0 N017 N001 P_50n l=50n w=1000n
M8 N001 N016 N017 N001 P_50n l=50n w=1000n
M9 N001 N015 N017 N001 P_50n l=50n w=1000n
M10 N017 N049 N050 N054 P_50n l=50n w=1000n
M11 N001 N049 Cout_0 N041 P_50n l=50n w=1000n
M12 N001 N016 N058 N040 P_50n l=50n w=1000n
M13 N058 N015 N049 N001 P_50n l=50n w=1000n
M14 N001 N016 N052 N001 P_50n l=50n w=1000n
M15 N001 N015 N052 N039 P_50n l=50n w=1000n
M16 N052 0 N049 N001 P_50n l=50n w=1000n
M17 N050 N015 N069 0 N_50n l=50n w=500n
M18 N069 N016 N085 0 N_50n l=50n w=500n
M19 N085 0 0 0 N_50n l=50n w=500n
M20 N084 0 0 0 N_50n l=50n w=500n
M21 N084 N016 0 0 N_50n l=50n w=500n
M22 N084 N015 0 0 N_50n l=50n w=500n
M23 N050 N049 N084 0 N_50n l=50n w=500n
M24 N083 N016 0 0 N_50n l=50n w=500n
M25 N082 N016 0 0 N_50n l=50n w=500n
M26 N082 N015 0 0 N_50n l=50n w=500n
M27 N049 0 N082 0 N_50n l=50n w=500n
M28 N049 N015 N083 0 N_50n l=50n w=500n
M29 SUM_1 N044 0 N063 N_50n l=50n w=2000n
M30 Cout_1 N043 0 N061 N_50n l=50n w=1000n
M31 N001 N044 SUM_1 N032 P_50n l=50n w=5000n
M32 N024 N011 N044 N001 P_50n l=50n w=5000n
M33 N004 N012 N024 N001 P_50n l=50n w=5000n
M34 N001 Cout_0 N004 N001 P_50n l=50n w=5000n
M35 N001 Cout_0 N014 N001 P_50n l=50n w=5000n
M36 N001 N012 N014 N001 P_50n l=50n w=5000n
M37 N001 N011 N014 N001 P_50n l=50n w=5000n
M38 N014 N043 N044 N051 P_50n l=50n w=5000n
M39 N001 N043 Cout_1 N031 P_50n l=50n w=1000n
M40 N001 N012 N056 N030 P_50n l=50n w=1000n
M41 N056 N011 N043 N001 P_50n l=50n w=1000n
M42 N001 N012 N047 N001 P_50n l=50n w=1000n
M43 N001 N011 N047 N029 P_50n l=50n w=1000n
M44 N047 Cout_0 N043 N001 P_50n l=50n w=5000n
M45 N044 N011 N068 0 N_50n l=50n w=2000n
M46 N068 N012 N081 0 N_50n l=50n w=2000n
M47 N081 Cout_0 0 0 N_50n l=50n w=2000n
M48 N080 Cout_0 0 0 N_50n l=50n w=2000n
M49 N080 N012 0 0 N_50n l=50n w=2000n
M50 N080 N011 0 0 N_50n l=50n w=2000n
M51 N044 N043 N080 0 N_50n l=50n w=2000n
M52 N079 N012 0 0 N_50n l=50n w=500n
M53 N078 N012 0 0 N_50n l=50n w=500n
M54 N078 N011 0 0 N_50n l=50n w=500n
M55 N043 Cout_0 N078 0 N_50n l=50n w=2000n
M56 N043 N011 N079 0 N_50n l=50n w=500n
M57 SUM_2 N037 0 N062 N_50n l=50n w=500n
M58 Cout_2 N036 0 N059 N_50n l=50n w=1000n
M59 N001 N037 SUM_2 N028 P_50n l=50n w=1000n
M60 N019 N007 N037 N001 P_50n l=50n w=1000n
M61 N003 N008 N019 N001 P_50n l=50n w=1000n
M62 N001 Cout_1 N003 N001 P_50n l=50n w=1000n
M63 N001 Cout_1 N013 N001 P_50n l=50n w=1000n
M64 N001 N008 N013 N001 P_50n l=50n w=1000n
M65 N001 N007 N013 N001 P_50n l=50n w=1000n
M66 N013 N036 N037 N048 P_50n l=50n w=1000n
M67 N001 N036 Cout_2 N027 P_50n l=50n w=1000n
M68 N001 N008 N055 N026 P_50n l=50n w=1000n
M69 N055 N007 N036 N001 P_50n l=50n w=1000n
M70 N001 N008 N045 N001 P_50n l=50n w=1000n
M71 N001 N007 N045 N025 P_50n l=50n w=1000n
M72 N045 Cout_1 N036 N001 P_50n l=50n w=5000n
M73 N037 N007 N067 0 N_50n l=50n w=500n
M74 N067 N008 N077 0 N_50n l=50n w=500n
M75 N077 Cout_1 0 0 N_50n l=50n w=500n
M76 N076 Cout_1 0 0 N_50n l=50n w=500n
M77 N076 N008 0 0 N_50n l=50n w=500n
M78 N076 N007 0 0 N_50n l=50n w=500n
M79 N037 N036 N076 0 N_50n l=50n w=500n
M80 N075 N008 0 0 N_50n l=50n w=500n
M81 N074 N008 0 0 N_50n l=50n w=500n
M82 N074 N007 0 0 N_50n l=50n w=500n
M83 N036 Cout_1 N074 0 N_50n l=50n w=2000n
M84 N036 N007 N075 0 N_50n l=50n w=500n
M85 SUM_3 N034 0 N060 N_50n l=50n w=2000n
M86 Cout_3 N033 0 N057 N_50n l=50n w=1000n
M87 N001 N034 SUM_3 N023 P_50n l=50n w=5000n
M88 N018 N005 N034 N001 P_50n l=50n w=1000n
M89 N002 N006 N018 N001 P_50n l=50n w=1000n
M90 N001 Cout_2 N002 N001 P_50n l=50n w=1000n
M91 N001 Cout_2 N009 N001 P_50n l=50n w=1000n
M92 N001 N006 N009 N001 P_50n l=50n w=1000n
M93 N001 N005 N009 N001 P_50n l=50n w=1000n
M94 N009 N033 N034 N046 P_50n l=50n w=1000n
M95 N001 N033 Cout_3 N022 P_50n l=50n w=1000n
M96 N001 N006 N053 N021 P_50n l=50n w=1000n
M97 N053 N005 N033 N001 P_50n l=50n w=1000n
M98 N001 N006 N038 N001 P_50n l=50n w=1000n
M99 N001 N005 N038 N020 P_50n l=50n w=1000n
M100 N038 Cout_2 N033 N001 P_50n l=50n w=1000n
M101 N034 N005 N066 0 N_50n l=50n w=500n
M102 N066 N006 N073 0 N_50n l=50n w=500n
M103 N073 Cout_2 0 0 N_50n l=50n w=500n
M104 N072 Cout_2 0 0 N_50n l=50n w=500n
M105 N072 N006 0 0 N_50n l=50n w=500n
M106 N072 N005 0 0 N_50n l=50n w=500n
M107 N034 N033 N072 0 N_50n l=50n w=500n
M108 N071 N006 0 0 N_50n l=50n w=500n
M109 N070 N006 0 0 N_50n l=50n w=500n
M110 N070 N005 0 0 N_50n l=50n w=500n
M111 N033 Cout_2 N070 0 N_50n l=50n w=500n
M112 N033 N005 N071 0 N_50n l=50n w=500n
V1 N001 0 1
V2 N015 0 PULSE(0 1 0 1p 1p 1n 2n)
V3 N016 0 PULSE(0 1 0 1p 1p 2n 3n)
V4 N011 0 PULSE(0 1 0 1p 1p 3n 4n)
V5 N012 0 PULSE(0 1 0 1p 1p 4n 5n)
V6 N007 0 0
V7 N008 0 1
V8 N005 0 1
V9 N006 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\shaun\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmosedu_models.txt
.tran 40n
.backanno
.end
